US03957989
2,7-BIS(4-CHLOROBUTYRYL)XANTHENE
To a mixture of 91.1 g (0.5 mole) xanthene, 176.3 g (1.25 moles) of 4-chlorobutyryl chloride and 3 liters of dried methylene chloride cooled to -20°C. was added slowly over 1/2 hour 146.7 g (1.1moles) of aluminum chloride, maintaining a temperature below -10°C. The reaction mixture was allowed to warm slowly to room temperature and then refluxed for 4 hours and cooled to room temperature. The mixture was decomposed by pouring cautiously into 2 liters of ice water, and the layers were separated. The aqueous layer was extracted again with methylene chloride. The methylene chloride layers were combined and evaporated to a small volume and cooled. The resulting solid was filtered off and recrystallized from acetone to give the desired product. M.P. 131°-132°C.

reactant | xanthene | 0.5 mole, 91.1 g | C1=CC=CC=2OC3=CC=CC=C3CC12 | C13H10O
reactant | 4-chlorobutyryl chloride | 1.25 moles, 176.3 g | ClCCCC(=O)Cl | C4H6Cl2O
reactant | aluminum chloride | 1.1moles, 146.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | 3 liters | C(Cl)Cl | CH2Cl2
product | 2,7-BIS(4-CHLOROBUTYRYL)XANTHENE | ClCCCC(=O)C1=CC=2CC3=CC(=CC=C3OC2C=C1)C(CCCCl)=O | C21H20Cl2O3
